US08008302B2
Step c) Formation of (2R)-3-cyclopentyl-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]propanoic acid
To a solution of (2R,3S)-2-(cyclopentylmethyl)-3-hydroxysuccinic acid (18.97 g, 87.73 mmol; 1.0 eq.) in acetone (300 mL) was added 2,2-dimethoxypropane (21.6 mL, 175.46 mmol, 2.0 eq.) and copper (II) chloride (1.18 g; 8.77 mmol, 0.1 eq.). The resulting reaction mixture was stirred for 16 h at RT. The reaction mixture was evaporated and the residue taken up in CHCl3 (200 mL). Activated charcoal (10 g) was added and the resulting mixture was stirred at RT for 30 minutes. Filtration on a pad of celite gave the title product as yellowish oil. Purification by flash chromatography (Si60; 40-60 microns) eluting with Heptane/MTBE 60/40 gave the title product (16.30 g; 72.5%) as a colorless oil.

reactant | (2R,3S)-2-(cyclopentylmethyl)-3-hydroxysuccinic acid | 87.73 mmol, 18.97 g, 1.0 eq. | C1(CCCC1)C[C@@H](C(=O)O)[C@@H](C(=O)O)O | C10H16O5
reactant | 2,2-dimethoxypropane | 175.46 mmol, 21.6 mL, 2.0 eq. | COC(C)(C)OC | C5H12O2
solvent | acetone | 300 mL | CC(=O)C | C3H6O
catalyst | copper (II) chloride | 8.77 mmol, 1.18 g, 0.1 eq. | [Cu](Cl)Cl
product | (2R)-3-cyclopentyl-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]propanoic acid | C1(CCCC1)C[C@@H](C(=O)O)[C@@H]1OC(OC1=O)(C)C | C13H20O5
